US08871753B2
Step B: 3,3′-Propane-1,3-diyldianiline
To a solution of (2E)-1,3-bis(3-nitrophenyl)prop-2-en-1-one (2.8 g, 0.0094 mol) in N,N-dimethylformamide (20 mL) was added 10% (by wt.) palladium on carbon and acetic acid (2.0 mL). The mixture was degassed with vacuum and purged with hydrogen three times before shaking on a Parr shaker for 72 hours under a hydrogen atmosphere. The mixture was filtered through celite, evaporated and purified by preparative LCMS (pH 10) to give the desired product (101 mg, 5%). LCMS for C15H19N2 (M+H)+: m/z=227.2.

reactant | (2E)-1,3-bis(3-nitrophenyl)prop-2-en-1-one | 0.0094 mol, 2.8 g | [N+](=O)([O-])C=1C=C(C=CC1)C(\C=C\C1=CC(=CC=C1)[N+](=O)[O-])=O | C15H10N2O5
reactant | acetic acid | 2.0 mL | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
catalyst | palladium on carbon | [Pd] | Pd
product | 3,3′-Propane-1,3-diyldianiline | 101 mg, 5% | C(CCC=1C=C(N)C=CC1)C=1C=C(N)C=CC1 | C15H18N2
